US08563575B2
A mixture of 3,3-dimethyl-1-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one (258 mg) and 2N HCl in EtOH (5 mL) in EtOH (5 ml) was stirred at 60° C. for 10 h. After cooling to room temperature, the solvent was removed. The residue was recrystallized from EtOH—AcOEt to give 1-[4-(1H-benzimidazol-2-yloxy)phenyl]-3,3-dimethyl-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one dihydrochloride (152 mg).

reactant | 3,3-dimethyl-1-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | 258 mg | CC1(C(N(C2=NC=CC=C21)C2=CC=C(C=C2)OC2=NC1=C(N2COCC[Si](C)(C)C)C=CC=C1)=O)C | C28H32N4O3Si
reactant | HCl | 2N | Cl | ClH
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | EtOH | 5 ml | CCO | C2H6O
product | 1-[4-(1H-benzimidazol-2-yloxy)phenyl]-3,3-dimethyl-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one dihydrochloride | 152 mg | Cl.Cl.N1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)N2C(C(C=1C2=NC=CC1)(C)C)=O | InChI=1S/C22H18N4O2.2ClH/c1-22(2)16-6-5-13-23-19(16)26(20(22)27)14-9-11-15(12-10-14)28-21-24-17-7-3-4-8-18(17)25-21;;/h3-13H,1-2H3,(H,24,25);2*1H
